Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Tramadol / Codeine
 
Attending: ___.
 
Chief Complaint:
Lower extremity weakness and back pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
The patient is a ___ y/o F with a history of emphysema, 
scoliosis, 'disk surgery' in the past who presents with a two 
day history of bilateral lower extremity pain and weakness with 
inability to walk. The patient stated that she has a history of 
a lumbar disk herniation that has caused her to have mild back 
discomfort chronically. About 2.5 months ago, she states that 
she had an incident in her home involving a large cabinet 
falling on her, after which she had a worsening of her back pain 
and right hand pain. She states that over the past 2.5 months 
she has had progressive back and lower extremity discomfort, 
with progressed to her need to use a walker one month ago. She 
has been taking oral narcotics since then.

Two days ago, the patient recounts that she awoke with severe 
back pain and an inability to move her lower extremities. She 
denies bowel or bladder loss. She states that he is unable to 
move her legs out of bed, but can partially ambulate with 
assistance once her feet are on the ground.

The patient presented to the ED for further evaluation. At 
presentation to the ED vitals were: T 97.6, HR 82, BP 113/68, RR 
18, O2Sat 96% on RA. She had an MRI which showed central spinal 
canal narrowing without cord signal abnormality. Neurosurgery 
evaluation in the ED assessed patient as having no need for 
urgent or emergent neurosurgical intervention. Rectal exam per 
ED and neurosurgery was without concern for decreased rectal 
tone. Vitals prior to transfer to the floor were: T Afebrile, HR 
80, BP 103/53, RR 16, O2Sat 95% RA.
 
Past Medical History:
1) Emphysema
2) Scoliosis
3) "Herniated disc in back"
4) Depression
5) PTSD
6) Panic Attacks
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
Vitals: 97.5, 118/70, 81, 20, 96%RA
General: Alert, oriented, no acute distress
HEENT: Sclera anicteric, MMM, oropharynx clear
Neck: supple, JVP not elevated, no LAD
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly
Back: Patient with profound tenderness to light palpation over 
lumbar spine and right paraspinal musculature.
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro: CN II-XII intact. The patient's LEs were difficult to 
assess because of poor effort secondary to pain. Patient had 
significant tenderness to light push over her legs bilaterally. 
Active ROM limited secondary to severe pain: ___ilaterally, ___ bilaterally at hip. Pain is 
disproportionate to exam. It was noted that pt was able to 
mildly more her R leg spontaneously without much apparent 
discomfort. Symmetrical sensation.  Despite the strength 
deficits on exam, the patient is able to ambulate with the aid 
of a walker.  The patient walked out of the hospital at the time 
of discharge.
 
Pertinent Results:
___ 04:58PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
___ 04:58PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 08:30PM   PLT COUNT-280
___ 08:30PM   NEUTS-61.0 ___ MONOS-2.8 EOS-2.0 
BASOS-1.0
___ 08:30PM   WBC-10.4 RBC-4.42 HGB-12.2 HCT-35.9* MCV-81* 
MCH-27.5 MCHC-33.8 RDW-14.9
___ 08:30PM   GLUCOSE-94 UREA N-9 CREAT-0.4 SODIUM-139 
POTASSIUM-4.2 CHLORIDE-102 TOTAL CO2-27 ANION GAP-14

MR ___ Spine: ___
1. No evidence of an acute process.
2. No spinal canal stenosis at any imaged level.
3. L4-L5: Broad-based central protrusion contacts the traversing 
L5 nerve roots, left more than right, in the subarticular zones.
4. L5-S1: Small central protrusion contacts the traversing right 
S1 nerve root in that subarticular zone.
 
Brief Hospital Course:
___ year old female with a history of emphysema, scoliosis, 'disk 
surgery' in the past who presents with a two day history of 
bilateral lower extremity pain and weakness with inability to 
walk.

1. Bilateral lower extremity pain: Presented with significant 
lower extremity pain and weakness, initially concerning for 
acute spinal cord injury.   MR ___ spine performed in the 
emergency department was negative for cord compression although 
did show L4-L5 disc degeneration with mild L5 nerve root and 
right S1 impingement.  This degenerative disc disease may be 
partially responsible for the patient's symptoms.  She was 
evaluated by neurosurgery in the emergency department who 
recommended conservative therapy and did not see an indication 
for acute surgical intervention.  Pain was managed on the floor 
via home dose of narcotics.  The patient was evaluated and 
ambulated with physical therapy, who determined that she was 
near her baseline.  Discharged with home physical therapy on 
prior pain regiment.  
 
2.  Left hand numbness: stable numbness of left wrist since 
accident 2.5 months ago.  Patient wore her wrist splint through 
duration of her hospitalization and will follow up with her 
previously scheduled outpatient nerve conduction study.  

3. COPD: Stable; continued on home inhalers.  Encouraged smoking 
cessation

4.  Depression/Anxiety/PTSD: Patient appeared anxious and 
distraught throughout hospital stay.  She was continued on 
Prozac 80mg daily, Remeron 45mg hs.  Of note, her home 
medication xanax was switched to longer acting valium in the 
hopes that it would alleviate any muscular spasm that could be 
contributing to back pain.
 
Medications on Admission:
1) Prozac 80mg daily
2) Trazodone 100mg hs
3) Remeron 45mg hs
4) Xanax 1mg TID
5) Morphine tabs 30mg BID
6) Albuterol neb
7) Proair MDI
8) Advair MDI
 
Discharge Medications:
1. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
Two (2) Puff Inhalation Q6H (every 6 hours) as needed for 
shortness of breath or wheezing.  
2. Xanax 1 mg Tablet Sig: One (1) Tablet PO three times a day.  
3. Morphine 30 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO Q12H (every 12 hours).  
4. Fluoxetine 20 mg Capsule Sig: Four (4) Capsule PO DAILY 
(Daily).  
5. Fluticasone-Salmeterol 250-50 mcg/Dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
6. Remeron 45 mg Tablet Sig: One (1) Tablet PO at bedtime.  
7. Olanzapine 10 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___:
Primary Diagnosis:
lower back pain

Secondary Diagnosis:
Bipolar Disorder/ Depression/ Panic Attack
 
Discharge Condition:
Hemodynamically stable, pain adequately controlled on home 
regimen.  Pt able to ambulate using a walker.
 
Discharge Instructions:
You were admitted with bilateral lower extremity pain and 
weakness.  You had an MRI of your spine in the emergency 
department which showed central spinal canal narrowing without 
cord signal abnormality.  You were seen by the neurosurgeons who 
felt that there was not any need for an acute surgical 
procedure.  You were also evaluated by our physical therapists 
who thought that you would be safe to go home with some help 
from physical therapy.

Please continue your previous medication regimen.

Please go to all of your previously scheduled follow up 
appointments.

If you develop worsening lower back pain, lower extremity 
weakness, fever, bowel/ bladder incontinence or other concerning 
symptoms please call your physician or go to the emergency room
 
Followup Instructions:
___